US09212348B2
Synthesis of 4-(4-hexylphenyl)-5-hydroxy-1-(2-methyl-1-(p-tolyl)propan-2-yl)-1H-pyrazole-3-carbonitrile (Compound No. 4-86 of the Present Invention)
266 mg of 4-(4-hexylphenyl)-5-(methoxymethoxy)-1-(2-methyl-1-(p-tolyl)propan-2-yl)-1H-pyrazole-3-carbonitrile was dissolved in 4 mL of tetrahydrofuran and 0.8 mL of methanol, mixed with 4 M hydrochloric acid in dioxane (0.70 mL, 2.8 mmol) and stirred at room temperature for 14 hours. After completion of the reaction, the solvent was partly distilled off under reduced pressure, and the crystals precipitated in the reaction mixture were separated by filtration and washed with isopropyl ether. The filtrate was combined with the isopropyl ether washing and concentrated under reduced pressure, and the resulting residue was purified by intermediate pressure silica gel column chromatography (silica gel 10 g, ethyl acetate:hexane=0:100 to 20:80) to give 88.1 mg of the desired product as a white solid.

reactant | 4-(4-hexylphenyl)-5-(methoxymethoxy)-1-(2-methyl-1-(p-tolyl)propan-2-yl)-1H-pyrazole-3-carbonitrile | 266 mg | C(CCCCC)C1=CC=C(C=C1)C=1C(=NN(C1OCOC)C(CC1=CC=C(C=C1)C)(C)C)C#N | C29H37N3O2
reactant | hydrochloric acid | 4 M | Cl | ClH
reactant | dioxane | 2.8 mmol, 0.70 mL | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | methanol | 0.8 mL | CO | CH4O
product | 4-(4-hexylphenyl)-5-hydroxy-1-(2-methyl-1-(p-tolyl)propan-2-yl)-1H-pyrazole-3-carbonitrile | 88.1 mg | C(CCCCC)C1=CC=C(C=C1)C=1C(=NN(C1O)C(CC1=CC=C(C=C1)C)(C)C)C#N | C27H33N3O
